US06437147B1
4,5,6,7-Tetrahydro-1H-benzimidazole-5-carboxylic acid [3-(4-chlorophenoxy)propyl]amide, hydrochloride
By a similar procedure as described in Example 65, the title compound was prepared from 4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid and 3-(4-chlorophenoxy)propylamine.

reactant | 4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid | N1=CNC2=C1CCC(C2)C(=O)O | C8H10N2O2
reactant | 3-(4-chlorophenoxy)propylamine | ClC1=CC=C(OCCCN)C=C1 | C9H12ClNO
product | 4,5,6,7-Tetrahydro-1H-benzimidazole-5-carboxylic acid [3-(4-chlorophenoxy)propyl]amide, hydrochloride | Cl.ClC1=CC=C(OCCCNC(=O)C2CC3=C(NC=N3)CC2)C=C1 | InChI=1S/C17H20ClN3O2.ClH/c18-13-3-5-14(6-4-13)23-9-1-8-19-17(22)12-2-7-15-16(10-12)21-11-20-15;/h3-6,11-12H,1-2,7-10H2,(H,19,22)(H,20,21);1H
